US04451484
Under a dry nitrogen atmosphere 2-nitrobenzaldehyde (15 grams, 0.1 mole) and 1,4,7,10,13,16-hexaoxacyclooctadecane (0.05 gram) were added to a stirred mixture of 2-(1-oxopropoxy)phenylmethyl triphenylphosphonium bromide (52.5 grams, 0.1 mole) and potassium carbonate (14 grams, 0.11 mole) in tetrahydrofuran (250 ml). The mixture was heated at reflux for three days, then allowed to stand at room temperature for five days. The mixture was evaporated under reduced pressure to give a residue, which was extracted with several portions of hot petroleum ether. The extracts were combined and evaporated under reduced pressure to give ethyl 2-[2-(2-nitrophenyl)ethenyl]benzoate as a yellow solid.

reactant | 2-nitrobenzaldehyde | 0.1 mole, 15 grams | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
reactant | 1,4,7,10,13,16-hexaoxacyclooctadecane | 0.05 gram | O1CCOCCOCCOCCOCCOCC1 | C12H24O6
reactant | 2-(1-oxopropoxy)phenylmethyl triphenylphosphonium bromide | 0.1 mole, 52.5 grams | [Br-].O=C(CC)OC1=C(C=CC=C1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium carbonate | 0.11 mole, 14 grams | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | ethyl 2-[2-(2-nitrophenyl)ethenyl]benzoate | [N+](=O)([O-])C1=C(C=CC=C1)C=CC1=C(C(=O)OCC)C=CC=C1 | C17H15NO4
